US05292740
By reacting 5-(1,3-benzodioxol-5-yloxy)-4,6-dichloropyrimidine with p-isopropylbenzenesulfonamide and thereafter with ethylene glycol Na, there was obtained N-[5-(1,3-benzodioxol-5-yloxy)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-p-isopropylbenzenesulfonamide as a solid.

reactant | 5-(1,3-benzodioxol-5-yloxy)-4,6-dichloropyrimidine | O1COC2=C1C=CC(=C2)OC=2C(=NC=NC2Cl)Cl | C11H6Cl2N2O3
reactant | p-isopropylbenzenesulfonamide | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C9H13NO2S
product | N-[5-(1,3-benzodioxol-5-yloxy)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-p-isopropylbenzenesulfonamide | O1COC2=C1C=CC(=C2)OC=2C(=NC=NC2OCCO)NS(=O)(=O)C2=CC=C(C=C2)C(C)C | C22H23N3O7S
